US07932282B2
3-Methyl-1-[4-(methyloxy)-2-pyrimidinyl]-2-oxo-4-imidazolidinecarboxylic acid (76 mg, 0.3 mmol) (˜0.3 mmol) in dichloromethane (4 ml) was treated with the 4A molecular sieves (200 mg, 0.300 mmol), and the mixture stirred at RT for 5 minutes. N-Ethylmorpholine (0.190 ml, 1.500 mmol), 1-hydroxybenzotriazole hydrate (55.1 mg, 0.360 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (82 mg, 0.360 mmol) were then added and the reaction stirred at RT under argon for 10 minutes. [(2,4-Dichlorophenyl)methyl]amine (58.1 mg, 0.330 mmol) was added and the reaction left to stir at RT under argon for 4 hours. The reaction mixture was diluted with dichloromethane (15 ml) and saturated sodium hydrogen carbonate solution (20 ml), and the product was extracted into dichloromethane (×2). The combined organic extracts were washed with water (20 ml), brine (20 ml) and then dried over magnesium sulphate. The solvent was evaporated in vacuo to give a yellow solid, which was purified by mass-directed automated HPLC. Fractions containing product were combined and solvent evaporated in vacuo, co-evaporated with diethyl ether to give N-[(2,4-dichlorophenyl)methyl]-3-methyl-1-[4-(methyloxy)-2-pyrimidinyl]-2-oxo-4-imidazolidinecarboxamide as a white solid (60 mg, 46.3% yield). LC/MS [M+H]+=410, retention time 1.73=minutes.

reactant | 3-Methyl-1-[4-(methyloxy)-2-pyrimidinyl]-2-oxo-4-imidazolidinecarboxylic acid | 0.3 mmol, 76 mg | CN1C(N(CC1C(=O)O)C1=NC=CC(=N1)OC)=O | C10H12N4O4
reactant | N-Ethylmorpholine | 1.500 mmol, 0.190 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-hydroxybenzotriazole hydrate | 0.360 mmol, 55.1 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.360 mmol, 82 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | [(2,4-Dichlorophenyl)methyl]amine | 0.330 mmol, 58.1 mg | ClC1=C(C=CC(=C1)Cl)CN | C7H7Cl2N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
product | N-[(2,4-dichlorophenyl)methyl]-3-methyl-1-[4-(methyloxy)-2-pyrimidinyl]-2-oxo-4-imidazolidinecarboxamide | 60 mg, 46.3% yield | ClC1=C(C=CC(=C1)Cl)CNC(=O)C1N(C(N(C1)C1=NC=CC(=N1)OC)=O)C | C17H17Cl2N5O3
